US04618708
N-(dibenzylphosphoryl) L-phenylalanine-glycine methyl ester (Derivative 1)
2g of L-phenylalanine-glycine methyl ester hydrochloride (7.4 mmoles) are put in suspension in 20 ml of anhydrous chloroform. 1.50 g of triethylamine (15 mmoles) are added. The solid enters into solution. The solution is cooled to 0° C. and 2.17 g (7.4 mmoles) of dibenzyl phosphoryl chloride freshly prepared from dibenzyl phosphite and sulfuryl chloride are added while stirring for 30 minutes. The mixture is allowed to stand for 20 hours at room temperature. The precipitate formed is filtered and the filtrate is washed in succession with 30 ml of 1N HCl, 20 ml of water, 20 ml of 10% bicarbonate, then 2×30 ml of water. The organic solution is dried on anhydrous Na2SO4 and evaporated under a vacuum. A pale yellow solid is obtained which is recrystallized in ethyl acetate.

reactant | L-phenylalanine glycine methyl ester hydrochloride | 7.4 mmoles | N[C@@H](CC1=CC=CC=C1)C(=O)O.Cl.COC(CN)=O
reactant | triethylamine | 15 mmoles, 1.50 g | C(C)N(CC)CC | C6H15N
reactant | dibenzyl phosphoryl chloride | 7.4 mmoles, 2.17 g | C(C1=CC=CC=C1)P(=O)(CC1=CC=CC=C1)Cl | C14H14ClOP
reactant | dibenzyl phosphite | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(dibenzylphosphoryl) L-phenylalanine glycine methyl ester | C(C1=CC=CC=C1)P(=O)(CC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O.COC(CN)=O | InChI=1S/C23H24NO3P.C3H7NO2/c25-23(26)22(16-19-10-4-1-5-11-19)24-28(27,17-20-12-6-2-7-13-20)18-21-14-8-3-9-15-21;1-6-3(5)2-4/h1-15,22H,16-18H2,(H,24,27)(H,25,26);2,4H2,1H3/t22-;/m0./s1
